US09102591B2
To a solution of 5-(6-chloro-pyridin-3-yl)-5-cyano-2-hydroxy-cyclohex-1-enecarboxylic acid methyl ester (4.2 g, 14 mmol) in DMSO (15 mL) was added sodium chloride (090 g, 16 mmol) and water (0.77 mL). The reaction mixture was heated at 160° C. for 6 hours. The reaction mixture was then cooled to room temperature and poured into water (50 mL). The aqueous layer was extracted with diethyl ether (3×250 mL). The combined organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue obtained was purified by column chromatography on silica gel to afford 1-(6-chloro-pyridin-3-yl)-4-oxo-cyclohexanecarbonitrile (1.7 g, 52%). 1H NMR (400 MHz, CDCl3) δ ppm 8.59 (s, 1 H), 7.83 (dd, J=8.4, 2.2 Hz, 1 H), 7.44 (d, J=8.5 Hz, 1 H), 2.89-2.98 (m, 2 H), 2.60-2.66 (m, 2 H), 2.48-2.54 (m, 2 H), 2.25-2.33 (m, 2 H).

reactant | 5-(6-chloro-pyridin-3-yl)-5-cyano-2-hydroxy-cyclohex-1-enecarboxylic acid methyl ester | 14 mmol, 4.2 g | COC(=O)C1=C(CCC(C1)(C#N)C=1C=NC(=CC1)Cl)O | C14H13ClN2O3
reactant | sodium chloride | 16 mmol | [Cl-].[Na+]
reactant | water | 0.77 mL | O | H2O
reactant | water | 50 mL | O | H2O
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
product | 1-(6-chloro-pyridin-3-yl)-4-oxo-cyclohexanecarbonitrile | 1.7 g, 52% | ClC1=CC=C(C=N1)C1(CCC(CC1)=O)C#N | C12H11ClN2O
